US06878736B1
N-(2-Pyrrolidin-1-yl-ethyl)-2-naphthalenesulfonamide
To an ice-cooled solution of 2-pyrrolidin-1-yl-ethylamine (1.00 g, 8.76 mmol) and triethylamine (1.22 ml, 8.76 mmol) in DCM (20 ml) was added portionwise 2-naphthalenesulfonyl chloride (1.98 g, 8.73 mmol). The coolant was removed and the resultant solution was stirred at ambient temperature for 16 h. The organic phase was washed sequentially twice with water (20 ml) and brine (20 ml), and dried over anhydrous magnesium sulfate. The filtrate was evaporated at reduced pressure to obtain the title compound as a white solid (1.81 g, 68%). 1HNMR 8.45 (1H, d, 1.5), 7.99-7.83 (4H, m), 7.66-7.61 (2H, m), 5.80-5.20 (1H, br s), 3.06-3.02 (2H, m), 2.53 (2H, m), 12.36-2.32 (4H, m), 1.74-1.65 (4H, m). Microanalysis found C 62.96 H 6.74; N 9.11. C16H20N2O2S requires C 63.13 H 6.62 N 9:20.

reactant | 2-pyrrolidin-1-yl-ethylamine | 8.76 mmol, 1.00 g | N1(CCCC1)CCN | C6H14N2
reactant | triethylamine | 8.76 mmol, 1.22 ml | C(C)N(CC)CC | C6H15N
reactant | 2-naphthalenesulfonyl chloride | 8.73 mmol, 1.98 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Pyrrolidin-1-yl-ethyl)-2-naphthalenesulfonamide | 1.81 g, 68% | N1(CCCC1)CCNS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C16H20N2O2S
